US06017919
6-Methoxy-5-pentyloxy-1,2,3,4-tetrahydroisoquinoline (116 mg, 0.465 mmol), (4-nitrophenyl)acetate (101.1 mg, 0.558 mmol) and 1-hydroxybenzotriazol hydrate (81.7 mg, 0.605 mmol) were dissolved in DMF (2 ml), and WSC hydrochloride (125 mg, 0.651 mmol) was added to this solution under ice-cooling. After stirring at room temperature for 3 hours, ethyl acetate (3 ml) and saturated aqueous sodium hydrogencarbonate solution (3 ml) were added to the reaction mixture to separate the organic layer. The organic layer was dried over anhydrous sodium sulfate. The drying agent was filtered off and the filtrate was concentrated under reduced pressure to give a crude product of 1-(6-methoxy-5-pentyloxy-3,4-dihydro-1H-isoquinolin-2-yl)-2-(4-nitrophenyl)ethanone. This product was used for the next reaction.

reactant | 6-Methoxy-5-pentyloxy-1,2,3,4-tetrahydroisoquinoline | 0.465 mmol, 116 mg | COC=1C(=C2CCNCC2=CC1)OCCCCC | C15H23NO2
reactant | (4-nitrophenyl)acetate | 0.558 mmol, 101.1 mg | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)[O-]
reactant | 1-hydroxybenzotriazol hydrate | 0.605 mmol, 81.7 mg | O.ON1N=NC2=C1C=CC=C2
reactant | WSC hydrochloride | 0.651 mmol, 125 mg | CCN=C=NCCCN(C)C.Cl
reactant | sodium hydrogencarbonate | 3 ml | C(O)([O-])=O.[Na+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
product | 1-(6-methoxy-5-pentyloxy-3,4-dihydro-1H-isoquinolin-2-yl)-2-(4-nitrophenyl)ethanone | COC=1C(=C2CCN(CC2=CC1)C(CC1=CC=C(C=C1)[N+](=O)[O-])=O)OCCCCC | C23H28N2O5
